US07423159B2
A mixture of 1,5-dimethyl-1H-pyrazole-4-carbaldehyde (400 mg), sodium hydride (60% in oil, 155 mg), ethyl diethylphosphonoacetate (795 mg) and N,N-dimethylformamide (5 ml) was stirred at room temperature for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. Recrystallization of the residue from ethyl acetate-hexane gave ethyl (2E)-3-(1,5-dimethyl-1H-pyrazol-4-yl)acrylate (304 mg, 49%) as colorless prism crystals. melting point: 82-83° C.

reactant | 1,5-dimethyl-1H-pyrazole-4-carbaldehyde | 400 mg | CN1N=CC(=C1C)C=O | C6H8N2O
reactant | sodium hydride | 155 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 795 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl (2E)-3-(1,5-dimethyl-1H-pyrazol-4-yl)acrylate | 304 mg, 49% | CN1N=CC(=C1C)/C=C/C(=O)OCC | C10H14N2O2
